US05130313
1-(3-Chloropropyl)-4-(4-fluorophenyl)piperazine can be obtained as follows: a solution of 1-bromo-3-chloropropane (68 cc) and 4-(4-fluorophenyl)piperazine (50 g) in acetonitrile (400 cc) is stirred at 25° C. for 20 hours with potassium carbonate (97 g). The mixture is filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.063-mm particle size, 9-cm diameter, 60-cm height) and eluted with ethyl acetate, 500-cc fractions being collected. Fractions 5 to 7 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine (44.4 g) in the form of a yellow oil.

reactant | 1-bromo-3-chloropropane | 68 cc | BrCCCCl | C3H6BrCl
reactant | 4-(4-fluorophenyl)piperazine | 50 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | potassium carbonate | 97 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 400 cc | C(C)#N | C2H3N
product | 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine | 44.4 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
